US04851526
2-[Bis(phenylmethyl)amino]cyclohexanecarbonitrile
To 100 mL of ether is added 10 g (0.2 mol) of sodium cyanide and 37.3 g (0.1 mol) of 2-[bis(phenylmethyl)amino]-cyclohexanol methanesulfonate. Reflux the reaction and monitor by thin-layer chromatography. Upon completion add 1N HCl until gas evolution ceases. Remove the solvent in vacuo and add saturated aqueous sodium bicarbonate and 100 mL methylene chloride. Dry the organic phase over Na2SO4. Filter off the drying agent and evaporate the solvent in vacuo to obtain the title compound.

reactant | sodium cyanide | 0.2 mol, 10 g | [C-]#N.[Na+]
reactant | 2-[bis(phenylmethyl)amino]-cyclohexanol methanesulfonate | 0.1 mol, 37.3 g | CS(=O)(=O)OC1C(CCCC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H27NO3S
reactant | HCl | 1N | Cl | ClH
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2-[Bis(phenylmethyl)amino]cyclohexanecarbonitrile | C1(=CC=CC=C1)CN(C1C(CCCC1)C#N)CC1=CC=CC=C1 | C21H24N2
